US07485283B2
A solution of annonacinone (595 mg, 1.0 mmol) in diisopropylethylamine (7 mL) is stirred at room temperature while chloromethyl methyl ether (360 mg, 4.5 mmol) is added. The mixture is stirred at room temperature for eight hours, concentrated in vacuo, and the residue is partitioned between water (50 mL) and ethyl acetate (50 mL). The aqueous phase is separated and extracted with ethyl acetate (2×50 mL) and the combined organic fractions are washed (1× water), dried (saturated aqueous NaCl, sodium sulfate), filtered, and concentrated. Chromatography (hexane-2:1 hexane:ethyl acetate gradient over silica gel 230-400 mesh) affords 3-{2,13-bis(methoxymethyloxy)-13-[tetrahydro-5-(1-methoxymethyloxytridecyl) furan-2-yl]tridecan-8-on-1-yl}-5-methyl-2-(5H)-furanone.

reactant | annonacinone | 1.0 mmol, 595 mg | CCCCCCCCCCCC[C@H]([C@H]1CC[C@@H](O1)[C@@H](CCCCC(=O)CCCCC[C@H](CC2=C[C@@H](OC2=O)C)O)O)O | C35H62O7
reactant | chloromethyl methyl ether | 4.5 mmol, 360 mg | COCCl | C2H5ClO
solvent | diisopropylethylamine | 7 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | 3-{2,13-bis(methoxymethyloxy)-13-[tetrahydro-5-(1-methoxymethyloxytridecyl) furan-2-yl]tridecan-8-on-1-yl}-5-methyl-2-(5H)-furanone | COCOC(CC=1C(OC(C1)C)=O)CCCCCC(CCCCC(C1OC(CC1)C(CCCCCCCCCCCC)OCOC)OCOC)=O | C41H74O10
